US04007225
To 100 ml. of dry benzene are added 17.6 g. of 1-oxoindan-4-carboxylic acid and 22.9 g. of phosphorus pentachloride and, after stirring for 1.5 hours, 40 g. of aluminum chloride is added. The mixture is stirred for 5 hours, after which the product is poured into dilute hydrochloric acid and extracted with ether. The organic layer is dried and distilled free of the solvent under reduced pressure. The crystalline residue is recrystallized from cyclohexane. The described procedure gives 4-benzoylindan-1-one which melts at 87°-89° C.

reactant | 1-oxoindan-4-carboxylic acid | O=C1CCC=2C(=CC=CC12)C(=O)O | C10H8O3
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-benzoylindan-1-one | C(C1=CC=CC=C1)(=O)C1=C2CCC(C2=CC=C1)=O | C16H12O2
